US04131736
100 g. of α-methyl-crotonic acid is reacted with sodium hydroxide to neutralize the carboxyl group. Sodium bisulfite (104 g.) in aqueous solution is added and the reaction continued as described in earlier examples to obtain 3,4-dimethyl-1,2-oxathiolane-5-one-2,2-dioxide

reactant | α-methyl-crotonic acid | C/C(/C(=O)O)=C\C | C5H8O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Sodium bisulfite | 104 g | S([O-])(O)=O.[Na+]
product | 3,4-dimethyl-1,2-oxathiolane-5-one-2,2-dioxide | CC1S(OC(C1C)=O)(=O)=O | C5H8O4S
